US05214037
To a solution of 7β-amino-3-(trityl-1,2,3-triazol-4-ylthiomethylthio) -3-cephem-4-carboxylic acid diphenylmethyl ester (800 mg : 1.06 mMol.) and (Z)-2-(2-t-butoxycarbonylaminothiazol -4-yl)-2-(1 t-butoxycarbonyl-1methylethoxyimino)acetic acid (479 mg : 1.12 mMol.) in dichloromethane (8 ml) cooling at -30° C., are added N-methylmorpholine (0.27 ml) (2.46 mMol.) and phenyl dichlorophosphate (0.19 ml : 1.27 mMol.), and the mixture is stirred at -30° C. for 50 minutes. The reaction mixture is mixed with 10% hydrochloric acid (1 ml), diluted with water, and extracted with ethyl acetate. The extract is washed with brine, dried over sodium sulfate, and concentrated. The residue is purified by silica gel column chromatography (toluene : ethyl acetate=10:1 to 5:1) to give 7β-(Z)-2-(2-t-butoxycarbonylaminothiazol-4 yl)-2-(1-t-butoxycarbonyl -1-methylethoxyimino)acetamido]-3-(trityl-1,2,3-triazol-4-ylthiomethylthio) -3-cephem-4carboxylic acid diphenylmethyl ester (855 mg) as yellow foam. Yield : 69%.

reactant | 7β-amino-3-(trityl-1,2,3-triazol-4-ylthiomethylthio) -3-cephem-4-carboxylic acid diphenylmethyl ester | 1.06 mMol, 800 mg | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(=O)C1=C(CS[C@H]2N1C([C@H]2N)=O)SC(SC=2N=NNC2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C42H35N5O3S3
reactant | (Z)-2-(2-t-butoxycarbonylaminothiazol -4-yl)-2-(1 t-butoxycarbonyl-1methylethoxyimino)acetic acid | 1.12 mMol, 479 mg | C(C)(C)(C)OC(=O)NC=1SC=C(N1)/C(/C(=O)O)=N/OC(C)(C)C(=O)OC(C)(C)C | C18H27N3O7S
reactant | N-methylmorpholine | 2.46 mMol, 0.27 ml | CN1CCOCC1 | C5H11NO
reactant | phenyl dichlorophosphate | 1.27 mMol, 0.19 ml | P(=O)(OC1=CC=CC=C1)(Cl)Cl | C6H5Cl2O2P
reactant | hydrochloric acid | 1 ml | Cl | ClH
solvent | dichloromethane | 8 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 3-(trityl-1,2,3-triazol-4-ylthiomethylthio) -3-cephem-4carboxylic acid diphenylmethyl ester | 855 mg | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(=O)C1=C(CS[C@H]2N1C(C2)=O)SC(SC=2N=NNC2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C42H34N4O3S3
